US05236952
A mixture of 396.0 mg of n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate and 137.6 mg of 1,2-phenylenediamine is heated to 120° for 60 minutes. Thereafter, the mixture is suspended in methanol, filtered under suction and recrystallized from N,N-dimethylformamide/water. There is obtained 3-(3,4-dihydroxy-5-nitrophenyl)-2(1H)-quinoxalinone of m.p. >300 °.

reactant | n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate | 396.0 mg | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCCCCCC)=O | C14H17NO7
reactant | 1,2-phenylenediamine | 137.6 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | methanol | CO | CH4O
product | 3-(3,4-dihydroxy-5-nitrophenyl)-2(1H)-quinoxalinone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1C(NC2=CC=CC=C2N1)=O | C14H9N3O5
